US05164510
N-Acetyl-5-nitroindoline (II)
A mixture of 5-nitroindoline (I, 12.012 g) in pyridine (100 ml) and acetic anhydride (50 ml) is stirred for 17 hr under argon. The mixture is then concentrated under reduced pressure to give the title compound, mp 175°-177°; NMR (CDCl3, 300 MHz) 8.28, 8.10, 8.01, 4.23, 3.31 and 2.28 δ; CMR (CDCl3, 75.47 MHz) 23.95, 27.01, 49.11, 115.73, 119.93, 124.27, 132.4, 143.4 and 169.8 δ; IR (CHCl3) 1680, 1600, 1480, 1470, 1390, 1340 and 1320 cm-1.

reactant | 5-nitroindoline | 12.012 g | [N+](=O)([O-])C=1C=C2CCNC2=CC1 | C8H8N2O2
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | N-Acetyl-5-nitroindoline | C(C)(=O)N1CCC2=CC(=CC=C12)[N+](=O)[O-] | C10H10N2O3
